US07074796B2
1c. 5-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one
A mixture of 1-(2,3-dichlorophenyl)piperazine hydrochloride (8.0 g) and diisopropylethylamine (15 mL) in butanone (50 mL) was heated to 45° C. followed by the addition of 5-bromo-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one (5.4 g). The resulting mixture was boiled under reflux for 40 h and filtered hot. The remaining organic phase was left to crystallise, and a white crystalline material was collected by filtration and washed with acetone (3.8 g). Mp 121–123° C. 1H NMR (DMSO-d6): 1.50–1.70 (m, 4H); 2.30–2.65 (m, 8H); 3.00 (s, 4H); 3.15 (t, 2H); 4.10 (t, 2H); 6.95 (t, 1H); 7.10–7–15 (m, 2H); 7.20 (d, 1H); 7.25–7.35 (m, 2H); 8.10 (d, 1H). MS m/z: 432 (MH+), 315, 202.

reactant | 1-(2,3-dichlorophenyl)piperazine hydrochloride | 8.0 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | diisopropylethylamine | 15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-bromo-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one | 5.4 g | BrCCCCC(=O)N1CCC2=CC=CC=C12 | C13H16BrNO
solvent | butanone | 50 mL | CC(CC)=O | C4H8O
product | 5-[4-(2,3-Dichlorophenyl)piperazin-1-yl]-1-(2,3-dihydro-1H-indol-1-yl)pentan-1-one | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCC(=O)N1CCC2=CC=CC=C12 | C23H27Cl2N3O
